US07220856B2
Preparation of 4-(7-Chloro-4-quinolinyl)-N-[3-(2-pyrimidinyloxy)cycloheptyl]-1-piperazinecarboxamide
As described for example 138, 4-(7-chloro-4-quinolinyl)-N-(3-hydroxycycloheptyl)-1-piperazinecarboxamide, NaH, and 2-chloropyrimidine are reacted to give the product after flash chromatography with CH2Cl2-MeOH. LC-MS: 481 (M++1). 1H NMR (CDCl3) δ 8.75 (d, 1H), 8.50 (d, 2H), 8.05 (s, 1H), 7.95 (d, 1H), 7.45 (d, 1H), 6.92 (t, 1H), 6.85 (d, 1H), 5.55 (m, 1H), 5.15 (m, 1H), 4.10 (m, 1H), 3.70 (m, 4H), 3.23 (m, 4H), 1.80–2.25 (m, 7H), 1.50–1.70 (m, 3H).

reactant | 4-(7-chloro-4-quinolinyl)-N-(3-hydroxycycloheptyl)-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CC(CCCC1)O | C21H27ClN4O2
reactant | NaH | [H-].[Na+]
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-(7-Chloro-4-quinolinyl)-N-[3-(2-pyrimidinyloxy)cycloheptyl]-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CC(CCCC1)OC1=NC=CC=N1 | C25H29ClN6O2
